US06913797B1
(21-a) Synthesis of trans-decahydronaphthalen-2,6-dione
21 g of trans-decahydronaphthalen-2,6-dione monoethyleneacetal was dissolved in 110 ml of toluene. 50 ml of formic acid was added to the solution, and the mixture was stirred for 1 hour at room temperature. Water was added to the mixture, and the organic phase was separated, rinsed with water, a saturated aqueous solution of sodium hydrogencarbonate, and a saturated saline solution, in sequence, and dried on anhydrous sodium sulfate. Then, the solvent was evaporated to obtain 16 g of pale yellow solid trans-decahydronaphthalen-2,6-dione.

reactant | trans-decahydronaphthalen-2,6-dione monoethyleneacetal | 21 g | C1COC2(C[C@@H]3CCC(C[C@H]3CC2)=O)O1 | C12H18O3
reactant | formic acid | 50 ml | C(=O)O | CH2O2
reactant | Water | O | H2O
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
product | trans-decahydronaphthalen-2,6-dione | 16 g | C1C(CC[C@@H]2CC(CC[C@@H]12)=O)=O | C10H14O2
